US08124606B2
(S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one (150 mg, 0.684 mmol), 3-fluoro-4-(piperazin-1-yl)benzonitrile (140 mg, 0.684 mmol), (cyanomethyl)trimethylphosphonium iodide (249 mg, 1.026 mmol) and N,N-diisopropylethylamine (0.597 ml, 3.42 mmol) were suspended in propionitrile (2 ml) and heated in a closed vial at 90° C. for 2 h. The reaction mixture became a clear dark brown solution. It was cooled to room temperature, diluted with DMSO (2 mL) and purified using preparative HPLC (25-95% acetonitrile in water, NH4HCO3 buffered). The fractions containing product were concentrated in vacuo and crystallized with water (3 mL). The precipitate was filtered and dried in vacuum to afford (S)-3-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile (60.2 mg, 0.148 mmol, 21.65% yield) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.83-2.03 (m, 3H) 2.11-2.24 (m, 1H) 2.44-2.49 (m, 4H) 3.07-3.22 (m, 4H) 3.34-3.42 (m, 3H) 3.53-3.65 (m, 1H) 3.93-4.03 (m, 1H) 6.97 (d, J=2.02 Hz, 1H) 7.11 (t, J=8.72 Hz, 1H) 7.56 (dd, J=8.46, 1.64 Hz, 1H) 7.61 (d, J=2.02 Hz, 1H) 7.69 (dd, J=13.39, 2.02 Hz, 1H) 10.44 (s, 1H); [M+H] calc'd for C22H23FN6O, 407. found, 407; melting point 226° C.

reactant | (S)-3-(hydroxymethyl)-6a,7,8,9-tetrahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-6(5H)-one | 0.684 mmol, 150 mg | OCC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C11H13N3O2
reactant | 3-fluoro-4-(piperazin-1-yl)benzonitrile | 0.684 mmol, 140 mg | FC=1C=C(C#N)C=CC1N1CCNCC1 | C11H12FN3
reactant | (cyanomethyl)trimethylphosphonium iodide | 1.026 mmol, 249 mg | [I-].C(#N)C[P+](C)(C)C
reactant | N,N-diisopropylethylamine | 3.42 mmol, 0.597 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | propionitrile | 2 ml | C(CC)#N | C3H5N
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
product | (S)-3-fluoro-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzonitrile | 0.148 mmol, 60.2 mg, 21.65% yield | FC=1C=C(C#N)C=CC1N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O | C22H23FN6O
